US05731331
A solution of 2.05 g (20 mmol of 4-chloropyrazole in dimethylformamide is added dropwise to a suspension of 1.0 g of NaH in dimethylformamide. The white suspension is heated for 30 minutes at 100° C. Cooling is carried out and 4.7 g (20 mmol) of 1-(3-chloropropyl)-4-phenyl-1,2,3,6-tetrahydropyridine, dissolved in dimethylformamide, are added. Heating is carried out at reflux for 2 hours. Evaporation to dryness is then carried out and the residue is extracted with chloroform, washed with water and dried with sodium sulfate. The resulting crude product is purified by chromatography on silica gel. 5.2 g (17.2 mmol) of 4-chloro-1-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-1H-pyrazole are obtained.

reactant | 4-chloropyrazole | 20 mmol | ClC=1C=NNC1 | C3H3ClN2
reactant | NaH | 1.0 g | [H-].[Na+]
reactant | 1-(3-chloropropyl)-4-phenyl-1,2,3,6-tetrahydropyridine | 20 mmol, 4.7 g | ClCCCN1CCC(=CC1)C1=CC=CC=C1 | C14H18ClN
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-chloro-1-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-1H-pyrazole | 17.2 mmol, 5.2 g | ClC=1C=NN(C1)CCCN1CCC(=CC1)C1=CC=CC=C1 | C17H20ClN3
